US03970423
15.2 g of 2-methyl-4-nitroaniline were dissolved in 150 ml conc. H2SO4 and heated in a boiling water bath. To this solution 24 g. of paraformaldehyde were added with stirring over a period of 10 minutes. The mixture was stirred an additional hour and was then cooled and poured over 300 g of ice. The precipitate was recrystallized from ethanol water to give 10.1 g of N,2-dimethyl-4-nitroaniline (m.p. 133°-136°C).

reactant | 2-methyl-4-nitroaniline | 15.2 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | paraformaldehyde | C=O | CH2O
solvent | H2SO4 | 150 ml | OS(=O)(=O)O | H2O4S
product | N,2-dimethyl-4-nitroaniline | 10.1 g | CNC1=C(C=C(C=C1)[N+](=O)[O-])C | C8H10N2O2
